US05714139
Racemic 1-methyl-2-(1-methylethenyl)-cyclobutaneacetic acid (grandisoic acid) [1].
A four gram sample of racemic 1-methyl-2-(1-methylethenyl)-cyclobutaneethanol (grandisol I) [2] (Bedoukian, Inc.) was oxidized to the corresponding racemic aldehyde, 1-methyl-2-(1-methylethenyl)-cyclobutaneacetaldehyde (grandisal) using pyridinium chlorochromate (Webster) (3.4 g, % yield 86.1). The racemic aldehyde was distilled under vacuum and a 3 gram sample was subsequently oxidized to racemic 1 using AgNO3 and NaOH (Pickett): nearly colorless oil (1.23 g, % yield 32.2); eims m/z (rel. int. %) 168 (1), 125 (12), 109 (14), 108 (35), 93 (9), 91 (3), 81 (6), 79 (11), 77 (10), 69 (11), 68 (100), 67 (86), 55 (11), 53 (30), 43 (35), 41 (41); H NMR (CDCl3) δ 2.61 (1H, m, H-2), 1.83 (1H, m, H-3a), 1.95 (1H, m, H-3b), 1.71 (1H, m, H-4a), 1.95 (1H, m, H-4b), 1.31 (3H, s, Me-5), 2.03 (1H, dd, J=14.6,H-6a), 2.54 (1H, d, J=14.6, H-6b), 4.85 (1H, m, H-9a), 4.65 (1H, m, H-9b), 1.64 (3H, s, Me-10); 13C NMR (CDCl3) δ 41.1 (C-1), 51.9 (C-2), 18.7 (C-3), 29.0 (C-4), 27.9 (C-5), 38.5 (C-6), 179.7 (C-7), 144.1 (C-8), 110.3 (C-9), 22.8 (C-10).

reactant | racemic 1-methyl-2-(1-methylethenyl)-cyclobutaneethanol | CC1(C(CC1)C(=C)C)CCO | C10H18O
reactant | 1-methyl-2-(1-methylethenyl)-cyclobutaneacetaldehyde | CC1(C(CC1)C(=C)C)CC=O | C10H16O
reactant | pyridinium chlorochromate | 3.4 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | Racemic 1-methyl-2-(1-methylethenyl)-cyclobutaneacetic acid | CC1(C(CC1)C(=C)C)CC(=O)O | C10H16O2
